US06835846B2
An acetonitrile solution (100 ml) of triphenylphosphine (18.6 g, 70.9 mmols) was stirred at 0° C. Bromine (11.4 g, 3.7 ml, 71.3 mmols) was slowly blended into the solution. To the mixture, an acetonitrile (30 ml) solution of (E)-3-methyl-2-dodecen-1-ol (3′) was added dropwise, followed by stirring for 2 hours at 0° C. The solvent was removed under vacuum, and the residue was dissolved in dichloromethane. The solution was washed with saturated sodium bicarbonate and a saturated aqueous solution of sodium chloride, then dried over sodium sulfate, and concentrated. Pentane was added to the residue, and a solid formed was removed by filtration. The filtrate was concentrated in a vacuum to obtain 17.9 g (97%) of (E)-1-bromo-3-methyl-2-dodecene (4′).

reactant | triphenylphosphine | 70.9 mmols, 18.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Bromine | 71.3 mmols, 3.7 ml, 11.4 g | BrBr | Br2
reactant | (E)-3-methyl-2-dodecen-1-ol | C\C(=C/CO)\CCCCCCCCC | C13H26O
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | (E)-1-bromo-3-methyl-2-dodecene | 17.9 g, 97% | BrC\C=C(\CCCCCCCCC)/C | C13H25Br
